US08912186B2
By a procedure similar to that of example 1.59.1, starting from 4-trifluoromethylbenzaldehyde and acetophenone, 1-phenyl-3-[4-(trifluoromethyl)phenyl]prop-2-en-1-one was obtained as yellow solid.

reactant | 4-trifluoromethylbenzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | 1-phenyl-3-[4-(trifluoromethyl)phenyl]prop-2-en-1-one | C1(=CC=CC=C1)C(C=CC1=CC=C(C=C1)C(F)(F)F)=O | C16H11F3O
